US06184242B2
A solution of dimethylamine in tetrahydrofuran (2M, excess) was added 4-(4-chlorosulfonylbenzyl)-nitrobenzene dichloromethane hemisolvate (354 mg, 1 mmol) dissolved in tetrahydrofuran (5 mL). The mixture was stirred for 1 hour and extracted with a solution of diethyl ether and dilute potassium carbonate. The organic layer was separated and solvents evaporated. The residue was recrystallized from acetone/hexanes to give 4-(4-dimethylaminosulfonylbenzyl)-nitrobenzene (311 mg, 98%).

reactant | dimethylamine | CNC | C2H7N
reactant | 4-(4-chlorosulfonylbenzyl)-nitrobenzene dichloromethane | 1 mmol, 354 mg | ClCCl.ClS(=O)(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1
solvent | tetrahydrofuran | 2M | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-(4-dimethylaminosulfonylbenzyl)-nitrobenzene | 311 mg, 98% | CN(S(=O)(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1)C | C15H16N2O4S
